US07196080B2
To a mixture of 60% sodium hydride and THF were added dropwise ethyl diethylphosphonoacetate and further 4-[4-(t-butoxycarbonyl)piperazin-1-yl]benzaldehyde under cooling to 0° C., followed by stirring. Then, post-treatment and purification were carried out in a usual way to obtain ethyl 3-{4-[4-(t-butoxycarbonyl)piperazin-1-yl]phenyl}acrylate. Further, catalytic reduction was carried out using palladium/carbon to obtain an objective compound.

reactant | sodium hydride | [H-].[Na+]
reactant | ethyl diethylphosphonoacetate | C(C)OP(=O)(OCC)CC(=O)OCC | C8H17O5P
reactant | 4-[4-(t-butoxycarbonyl)piperazin-1-yl]benzaldehyde | C(C)(C)(C)OC(=O)N1CCN(CC1)C1=CC=C(C=O)C=C1 | C16H22N2O3
solvent | THF | C1CCOC1 | C4H8O
product | ethyl 3-{4-[4-(t-butoxycarbonyl)piperazin-1-yl]phenyl}acrylate | C(C)(C)(C)OC(=O)N1CCN(CC1)C1=CC=C(C=C1)C=CC(=O)OCC | C20H28N2O4
